US04431653
A mixture of 4-[(2-triphenylmethylaminomethyl-1H-imidazol-1-yl)methyl]piperidine (1.45 g, 0.0033 M) and dimethylformamide dimethylacetal was heated at 100° C. for 8 hours. After this period, the reaction was stripped to dryness to give 4-[(2-triphenylmethylaminomethyl-1H-imidazol-1-yl)methyl]-piperidine carboxaldehyde dimethylacetal. The solution of the piperidinecarboxaldehydedimethylacetal in methylene chloride (5 ml) was added to the mixture of 6-aminopenicillanic acid (0.57 g, 0.0026 M) and diisopropylethylamine (0.45 ml) in methylene chloride (5 ml) at 0° C. and stirred at room temperature for 3 hrs. The solvent was removed and the residue was stirred for 2 hrs in water (20 ml) which was maintained at pH 3 with 1 NHCl. The mixture was filtered and the filtrate was purified on Sephadex LH 20 columns to give [2S-(2alpha,5alpha,6beta)]-6-[[[4-[[2-(aminomethyl)-1H-imidazol-1-yl]methyl] -1-piperidinyl]methylene]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid hydrochloride (0.27 g, 24% yield).

reactant | 4-[(2-triphenylmethylaminomethyl-1H-imidazol-1-yl)methyl]piperidine | 0.0033 M, 1.45 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)NCC=1N(C=CN1)CC1CCNCC1 | C29H32N4
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 4-[(2-triphenylmethylaminomethyl-1H-imidazol-1-yl)methyl]-piperidine carboxaldehyde dimethylacetal | COC(N1CCC(CC1)CN1C(=NC=C1)CNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC | C32H38N4O2
